US07557213B2
Experimental conditions analogous to those described for Step 3 of Example 1 were used with 100 mg (0.341 mmol) of 3-(4-Methoxy-3-methyl-benzoyl)-1H-quinolin-4-one, 98.2 mg (0.409 mmol) of 2-bromomethyl-6-trifluoromethyl-pyridine, 16.4 mg (0.409 mmol, 60% dispersion in oil), and 3.5 mL of N,N-dimethylformamide. The crude product was purified by flash column chromatography using a gradient of 20-100% ethyl acetate in hexane to yield 39 mg of 3-(4-Methoxy-3-methyl-benzoyl)-1-(6-trifluoromethyl-pyridin-2-ylmethyl)-1H-quinolin-4-one. LC-MSD, m/z for C25H19F3N2O3 [M+H]: 453.13 LC retention time on HPLC, C18 column gradient 20-95% acetonitrile with 0.1% TFA in 4 minutes: 2.5 min.

reactant | 3-(4-Methoxy-3-methyl-benzoyl)-1H-quinolin-4-one | 0.341 mmol, 100 mg | COC1=C(C=C(C(=O)C2=CNC3=CC=CC=C3C2=O)C=C1)C | C18H15NO3
reactant | 2-bromomethyl-6-trifluoromethyl-pyridine | 0.409 mmol, 98.2 mg | BrCC1=NC(=CC=C1)C(F)(F)F | C7H5BrF3N
solvent | N,N-dimethylformamide | 3.5 mL | CN(C=O)C | C3H7NO
product | 3-(4-Methoxy-3-methyl-benzoyl)-1-(6-trifluoromethyl-pyridin-2-ylmethyl)-1H-quinolin-4-one | 39 mg | COC1=C(C=C(C(=O)C2=CN(C3=CC=CC=C3C2=O)CC2=NC(=CC=C2)C(F)(F)F)C=C1)C | C25H19F3N2O3
